US08563598B2
Preparation of S-phenyl 10-undecenethioate (2)
A 50-mL, one-necked, round-bottomed flask was charged with 10 mL toluene, triethylamine (0.70 mL, 5.0 mmol) and thiophenol (0.51 mL, 5.0 mmol). A solution of 10-undecenoyl chloride (1.10 mL, 5.1 mmol) in 15 mL toluene was added by a pressure-equalizing dropping funnel over 30 min while stirring the solution with a magnetic stirrer.

reactant | triethylamine | 5.0 mmol, 0.70 mL | C(C)N(CC)CC | C6H15N
reactant | thiophenol | 5.0 mmol, 0.51 mL | C1(=CC=CC=C1)S | C6H6S
reactant | 10-undecenoyl chloride | 5.1 mmol, 1.10 mL | C(CCCCCCCCC=C)(=O)Cl | C11H19ClO
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | S-phenyl 10-undecenethioate | C(CCCCCCCCC=C)(SC1=CC=CC=C1)=O | C17H24OS
